US07902367B2
Methyl 3-[3-[(4′-chlorobiphenyl-4-yl)oxymethyl]piperidin-1-yl]benzoate
Using 3-[(4′-chlorobiphenyl-4-yl)oxymethyl]piperidine (125 mg, 0.414 mmol) and 3-(methoxycarbonyl)phenylboric acid (149 mg, 0.828 mmol), the same procedure was followed as in Example 2 to give 105 mg (58%) of the desired compound as a colorless powder.

reactant | 3-[(4′-chlorobiphenyl-4-yl)oxymethyl]piperidine | 0.414 mmol, 125 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)OCC1CNCCC1 | C18H20ClNO
reactant | 3-(methoxycarbonyl)phenylboric acid | 0.828 mmol, 149 mg | COC(=O)C=1C=C(C=CC1)OB(O)O | C8H9BO5
product | Methyl 3-[3-[(4′-chlorobiphenyl-4-yl)oxymethyl]piperidin-1-yl]benzoate | 105 mg, 58% | ClC1=CC=C(C=C1)C1=CC=C(C=C1)OCC1CN(CCC1)C=1C=C(C(=O)OC)C=CC1 | C26H26ClNO3
